data/mechanism_extracts/OrgLett/10.1021_acs.orglett.1c02661_sup_1.json
{"doi": "10.1021_acs.orglett.1c02661_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical Y(OTf)3-catalyzed selenofunctionalization of styrenes and thiophenes with diphenyl diselenide to give 1,1-diaryl-2-phenylselenyl products (4a) and 2-phenylselenyl thiophenes (5a)", "mechanism_family": ["radical_anodic", "cation_initiated"], "electrochemical_role": "Anodic oxidation of PhSeSePh (or PhSe-) to generate an electrophilic PhSe+ species (or PhSe radical), which is activated/Lewis-acid-promoted by Y(CF3CO2)3 to engage the styrene/thiophene", "key_intermediates": [{"name": "phenylselenyl cation (PhSe+) / Y-activated PhSeSePh", "smiles": "[Se+]c1ccccc1", "role": "reactive"}, {"name": "seleniranium ion from styrene + PhSe+", "smiles": null, "role": "transient"}, {"name": "benzylic carbocation after thiophene attack on seleniranium", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes PhSeSePh (assisted by Y(CF3CO2)3 as Lewis acid) to an electrophilic PhSe+ equivalent, which adds to styrene forming a seleniranium ion; nucleophilic attack by 2-ethylthiophene at the benzylic position opens the seleniranium to give 4a, while direct electrophilic selenylation of 2-methylthiophene affords 5a. Protons are reduced at the Pt cathode to H2.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["kinetic_order", "on/off_light_or_current"], "evidence_strength": "weak", "notes": "Only the gram-scale procedure and a time-course (kinetic) study were shown on this page; mechanistic probes (radical traps, CV, intermediate isolation) are not visible here, so the mechanism is inferred from the reaction setup (electrochemistry, Y(III) Lewis acid, diselenide, styrene/thiophene). A radical pathway via PhSe• cannot be excluded from this page alone."}
